US07205302B2
1-bromo-4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butane
A solution of 1.50 g of 4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]-1-butanol and 1.18 g of triphenylphosphine in 20 ml of dichloromethane was ice-cooled and 1.49 g of carbon tetrabromide was added. After stirring for one hour, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 1.18 g of the desired compound as a yellow oily substance.

reactant | 4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]-1-butanol | 1.50 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C(C)C)CCCCO | C23H27N3O
reactant | triphenylphosphine | 1.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.49 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-bromo-4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butane | 1.18 g | BrCCCCN(C(C)C)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H26BrN3
